* source CHAPTER 12
C_C5         OUT1 N80517  {Cc}  
R_R12         IN N87878  {Rg}  
E_A4_E1         OUT2 0 N87878 0 {A}
R_R3         N80713 N80819  {R3}  
E_A5_E1         N87998 0 N87976 0 {A}
C_C1         N80593 OUT1  {C1}  
E_A6_E1         N88128 0 N88106 0 {A}
R_R4         N80819 N80841  {R4}  
C_C2         N80517 N80713  {C2}  
R_A2_R4         N80517 0  {2*Ricm}  
R_A2_R1         A2_N75440 N80713  {Ro}  
R_A2_R5         0 0  {2*Ricm}  
R_A2_R2         0 A2_N75560  {Rp}  
C_A2_C2         0 A2_N75560  {Cp}  
G_A2_G1         A2_N75560 0 N80517 0 {Gm}
E_A2_EP1         A2_N75440 0 A2_N75560 0 1
R_A2_R3         0 N80517  {Rid}  
R_A3_R4         N80819 0  {2*Ricm}  
R_A3_R1         A3_N75440 N80841  {Ro}  
R_A3_R5         0 0  {2*Ricm}  
R_A3_R2         0 A3_N75560  {Rp}  
C_A3_C2         0 A3_N75560  {Cp}  
G_A3_G1         A3_N75560 0 N80819 0 {Gm}
E_A3_EP1         A3_N75440 0 A3_N75560 0 1
R_A3_R3         0 N80819  {Rid}  
R_R9         N87998 N88106  {R3}  
R_R1         N80593 OUT1  {Rd}  
C_C3         N87878 OUT2  {C1}  
R_R10         N88106 N88128  {R4}  
C_C4         N87976 N87998  {C2}  
R_R5         N80593 N80841  {R1}  
R_R7         N87878 OUT2  {Rd}  
R_R2         OUT1 N80517  {R2}  
R_R6         IN N80593  {Rg}  
R_R11         N87878 N88128  {R1}  
R_A1_R4         N80593 0  {2*Ricm}  
R_A1_R1         A1_N75440 OUT1  {Ro}  
R_A1_R5         0 0  {2*Ricm}  
R_A1_R2         0 A1_N75560  {Rp}  
C_A1_C2         0 A1_N75560  {Cp}  
G_A1_G1         A1_N75560 0 N80593 0 {Gm}
E_A1_EP1         A1_N75440 0 A1_N75560 0 1
R_A1_R3         0 N80593  {Rid}  
V_Vin         IN 0 DC 0Vdc AC 1Vac 
R_R8         OUT2 N87976  {R2}  
.PARAM  C2=1.59n Rd=200K R1=10K R2=10K R3=10K Gm=0.19m Rg=200K R4=10K Rid=2E6
+  Cp=30p Ro=75 Rp=1.323E9 A=10E6 Cc=0p Ricm=500E6 C1=1.59n
