* source APPENDIX B-PS.16
R_R3         N84489 N84507  {R21}  
C_C2         0 N84143  {C61}  
R_R4         N84507 N84143  {R11}  
E_A32_E1         N84971 0 N84971 N84175 10E6
R_R1         IN N84471  {R51}  
R_R12         N84105 N84971  {R13}  
E_LAPLACE1         ABM_OUT 0 LAPLACE {V(IN)} 
+ {(9.793E23)/(8.141*PWRS(s,5)+4.792E5*PWRS(s,4)+5.428E10*PWRS(s,3)+1.968E15*PWRS(s,2)+7.366E19*s+9.792E23)}
R_R6         N84847 N84175  {R12}  
E_A22_E1         N84827 0 N84831 N84175 10E6
V_Vin         IN 0 DC 0Vdc AC 1Vac 
R_R8         N84827 N84831  {R32}  
E_A21_E1         N84475 0 N84489 N84143 10E6
C_C4         0 N84175  {C62}  
C_C1         N84471 N84475  {C41}  
R_R10         0 N84175  {R62}  
E_A31_E1         N84645 0 N84645 N84143 10E6
E_A11_E1         N84507 0 N84489 N84471 10E6
R_R7         N84831 N84847  {R22}  
E_A12_E1         N84847 0 N84831 N84813 10E6
R_R9         N84645 N84813  {R52}  
R_R2         N84475 N84489  {R31}  
E_A13_E1         OUT 0 N84105 0 10E6
C_C5         OUT N84105  {C13}  
C_C3         N84813 N84827  {C42}  
R_R5         0 N84143  {R61}  
R_R11         OUT N84105  {R23}  
.PARAM  C13=5.5n R61=14K R62=55.6K R51=10K R52=10K C61=2.43n C62=1.6n R31=10K
+  R32=10K R21=10K C41=2.43n R22=10K C42=1.6n R11=10K A=10E6 R23=10K R12=10K
+  R13=10K
