* source APPENDIX B-PS.6
Q_Q1         N107716 N108658 0 Q2N3904
V_V1         N107716 0 {VCE}
I_Ibase         0 N108658 DC {ib}  
.PARAM  VCE=2V ib=10u
