* source APPENDIX B-PS.9
M_M3         N236360 N236360 VDD VDD PMOS5P0  
+ L=6u  
+ W=37.5u  
+ AD=1.72E-10  
+ AS=1.72E-10  
+ PD=5.25e-5  
+ PS=5.25E-5      
+ M={M}
V_Vin         IN 0 DC 1.5Vdc AC 1Vac 
M_M1         OUT IN 0 0 NMOS5P0  
+ L=6u  
+ W={W}  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M1}
I_I2         N236360 0 DC {Iref}  
M_M2         OUT N236360 VDD VDD PMOS5P0  
+ L=6u  
+ W=37.5u  
+ AD=1.72E-10  
+ AS=1.72E-10  
+ PD=5.25e-5  
+ PS=5.25E-5      
+ M={M}
V_V2         VDD 0 {VDD}
.PARAM  w=12.5u m=2 m1=10 iref=100u vdd=10


** Wrapper definitions for AA legacy support **


.model PMOS5P0 pmos

+ vto=-1
+ gamma=0.65
+ phi=0.65
+ ld=6e-007
+ wd=0
+ uo=250
+ lambda=0.03
+ tox=8.5e-008
+ pb=0.7
+ cj=0.00018
+ cjsw=6e-010
+ mj=0.5
+ mjsw=0.5
+ cgdo=4e-010
+ js=1e-006
+ cgbo=2e-010
+ cgso=4e-010


.model NMOS5P0 nmos

+ vto=1
+ gamma=1.4
+ phi=0.7
+ ld=7e-007
+ wd=0
+ uo=750
+ lambda=0.01
+ tox=8.5e-008
+ pb=0.7
+ cj=0.0004
+ cjsw=8e-010
+ mj=0.5
+ mjsw=0.5
+ cgdo=4e-010
+ js=1e-006
+ cgbo=2e-010
+ cgso=4e-010

