* source APPENDIX B-PS.6
R_R9         0 N100480  {Re2}  
C_C1         N100256 OUT  {CCO}  
R_R5         IN N100121  {Rsig}  
R_R6         0 OUT  {RL}  
R_R8         VSS N100148  {RE1}  
V_V6         VDD 0 {VDD}
V_V5         IN 0 DC 0Vdc AC 1Vac 
C_C3         N100480 N100148  {CB}  
C_C2         N100121 N99836  {CCI}  
Q_Q2         N100256 N99836 N100148 Q2N3904
R_R4         N100256 VDD  {RC}  
R_R7         0 N99836  {RB}  
V_V7         VSS 0 {VSS}
.PARAM  VSS=-5 VDD=5 RB=340K RC=10K CCI=10u RE1=6K RL=10K CCO=10u RE2=1
+  Rsig=10K CB=10u
