* source APPENDIX B-PS.6
R_R7         0 N108871  {RB}  
R_R5         0 N109037  {Rsig}  
V_V6         VDD 0 {VDD}
R_R8         VSS N109043  {RE1}  
Q_Q2         N109109 N108871 N109043 Q2N3904
C_C3         N109295 N109043  {CB}  
V_V7         VSS 0 {VSS}
R_R9         0 N109295  {Re2}  
R_R4         N109109 VDD  {RC}  
I_Iout         OUT 0 DC 0Adc AC 1Aac 
C_C1         N109109 OUT  {CCO}  
C_C2         N109037 N108871  {CCI}  
R_R6         0 OUT  {RL}  
.PARAM  RB=340K VDD=5 VSS=-5 RC=10K CCI=10u CCO=10u RL=10K RE1=6K RE2=1
+  Rsig=10K CB=10u
