* source APPENDIX B-PS.2
V_Vin         INP 0  
+PULSE -1 1 0 1n 1n 20u 40u
X_U1         INP OUT VCC VEE OUT uA741
V_VCC         VCC 0 15V
V_VEE         0 VEE 15V
