* source APPENDIX B-PS.2
R_A1_Rid         N44965 A1_2  {Rid}  
V_A1_VOS         A1_2 N45053 {VOS}
E_A1_Ed         A1_N43852 0 A1_2 N44965 1E5
C_A1_Cb         0 A1_B  {Cb}  
R_A1_Ro         OUT A1_N44070  {Ro}  
E_A1_Eb         A1_N44070 0 A1_B 0 1
R_A1_Rb         A1_B A1_N43852  {Rb}  
R_R1         N44965 0  {R1}  
R_R2         N44965 OUT  {R2}  
V_V1         N45053 0  
+PULSE 0 1 0 1n 1n 200u 400u
.PARAM  R1=1K R2=100K VOS=1e-3 Rid=2e6 Ro=75 ft=1e6 Cb=1e-12 A0d=1e5 Rb=
+ {A0d/(2*3.142*ft*Cb)}
