* source CHAPTER 2
R_A1_Rid         N43900 A1_2  {Rid}  
V_A1_VOS         A1_2 N43767 {VOS}
E_A1_Ed         A1_N43852 0 A1_2 N43900 {A0d}
C_A1_Cb         0 A1_B  {Cb}  
R_A1_Ro         OUT A1_N44070  {Ro}  
E_A1_Eb         A1_N44070 0 A1_B 0 1
R_A1_Rb         A1_B A1_N43852  {Rb}  
V_Vin         N43900 0 DC 0Vdc AC 1Vac 
R_R1         N43767 0  {R1}  
R_R2         N43767 OUT  {R2}  
.PARAM  R1=1K R2=100K VOS=1e-3 Rid=2e6 Ro=75 ft=1e6 Cb=1e-12 A0d=1e5 Rb=
+ {A0d/(2*3.142*ft*Cb)}
