* source CHAPTER 8
Q_Q4         N17833 N19968 N17931 Q2N3904
R_Re7         N32729 0  {RE1}  
R_RE10         N44736 0  {RE2}  
Q_Q5         OC N44714 N44746 Q2N3904
C_CC3         N17833 N17867  {CC2}  
R_Re1         N00686 0  {RE1}  
C_Cc1         N002371 N00533  {CC1}  
R_RF1         N18149 N17923  {RF}  
C_Cc8         N325131 N32699  {CC1}  
L_LT         RETURNED N20559  {LT}  
R_RF4         N44906 N44714  {RF}  
R_RC3         N17833 VCC  {RC2}  
R_RE8         N32707 0  {RE2}  
R_RL4         N44676 0  {RL}  
C_CE1         0 N00686  {CE1}  
Q_Q7         N32733 N32699 N32729 Q2N3904
R_RE2         N00586 0  {RE2}  
V_VCC         VCC 0 DC={VCC}
Q_Q6         N44632 N45022 N44736 Q2N3904
V_Vt1         N45755 0 DC 0Vdc AC 1Vac 
C_CF         N02045 N00586  {CF}  
C_CF1         N18149 N17931  {CF}  
R_RF3         N32883 N32699  {RF}  
C_CF4         N44906 N44736  {CF}  
R_RC4         N17957 VCC  {RC1}  
R_RL3         N32643 0  {RL}  
R_RL         N00407 0  {RL}  
C_CTI3         N335690 N32733  {CTI}  
C_CC9         N44632 N44676  {CC2}  
Q_Q8         N32609 N33015 N32707 Q2N3904
R_RC9         N44632 VCC  {RC2}  
Q_Q1         RETURNED N00533 N00686 Q2N3904
C_CF3         N32883 N32707  {CF}  
R_Rb3         N17923 VCC  {RB1}  
C_CC7         N32609 N32643  {CC2}  
C_CC2         N00348 N00407  {CC2}  
R_RC7         N32609 VCC  {RC2}  
R_RC10         OC VCC  {RC1}  
Q_Q2         N00348 N20559 N00586 Q2N3904
C_CE2         0 N17953  {CE1}  
R_Rb4         0 N17923  {RB2}  
C_CTI         N20903 N20559  {CTI}  
C_CE5         0 N44746  {CE1}  
R_RC8         N32733 VCC  {RC1}  
R_Rb9         N44714 VCC  {RB1}  
R_RC2         N00348 VCC  {RC2}  
C_CE4         0 N32729  {CE1}  
R_RS1         N177371 0  {Rs}  
L_LT1         N17957 N19968  {LT}  
R_Rb7         N32699 VCC  {RB1}  
V_Vt         N20903 0 DC 0Vdc AC 1Vac 
R_Rb10         0 N44714  {RB2}  
R_RC1         RETURNED VCC  {RC1}  
R_Re3         N17953 0  {RE1}  
L_LT3         OC N45022  {LT}  
C_CTI1         N19968 RETURNED  {CTI}  
I_It         N33015 0 DC 0Adc AC -1Aac 
R_Rb1         N00533 VCC  {RB1}  
Q_Q3         N17957 N17923 N17953 Q2N3904
R_Rb8         0 N32699  {RB2}  
R_RS4         N445361 0  {Rs}  
R_RE4         N17931 0  {RE2}  
C_CTI4         N45755 N45022  {CTI}  
V_Vsc         N335690 0 DC 0Vdc AC 0Vac 
R_Rb2         0 N00533  {RB2}  
R_RS3         N325131 0  {Rs}  
L_LT2         N32733 N33015  {LT}  
R_Re9         N44746 0  {RE1}  
C_Cc4         N177371 N17923  {CC1}  
R_RL1         N17867 0  {RL}  
R_RF         N02045 N00533  {RF}  
C_Cc10         N445361 N44714  {CC1}  
R_RS         N002371 0  {Rs}  
.PARAM  VCC=12 RS=10K CF=1K RF=10K CTI=1K LT=1E9 RL=1K RE1=870 cap=1K RE2=3.4K
+  CE1=1K RC1=10k RC2=8K RB1=100K CC1=1K RB2=15K CC2=1K
