* source CHAPTER 4
V_V9         N33084 0 1
M_M11         N32415 N33644 0 0 NMOS0P5  
+ L=0.5u  
+ W=5u  
+ AD={{W}*1.5E-6}  
+ AS={{W}*1.5E-6}  
+ PD={2*{W}+3E-6}  
+ PS={2*{W}+3E-6}     
M_M9         N32415 N33084 0 0 NMOS0P5  
+ L=0.5u  
+ W=1.25u  
+ AD={{W}*1.5E-6}  
+ AS={{W}*1.5E-6}  
+ PD={2*{W}+3E-6}  
+ PS={2*{W}+3E-6}     
V_V10         N33430 0 1.1
V_V8         N32415 0 3.3
M_M10         N32415 N33430 0 0 NMOS0P5  
+ L=0.5u  
+ W=2.5u  
+ AD={{W}*1.5E-6}  
+ AS={{W}*1.5E-6}  
+ PD={2*{W}+3E-6}  
+ PS={2*{W}+3E-6}     
V_V11         N33644 0 1.2
.PARAM  W=1u
