* source CHAPTER 7
Q_Q6C         N71939 N71917 VEE Q2N3904
R_R3         A VCC  {R3}  
Q_Q7         B A N72373 Q2N3906
Q_Q6B         N71939 N71917 VEE Q2N3904
R_R4         N72373 VCC  {R4}  
V_Vd         D 0 DC -260.4u AC 1Vac 
R_R5         VEE B  {R5}  
R_R7         N80593 VCC  {R3_2}  
Q_Q6A         N71939 N71917 VEE Q2N3904
R_R6         VEE OUT  {R6}  
E_Ep         INP N72475 D 0 0.5
Q_Q1         N72383 INP N71929 Q2N3904
Q_Q3         N71929 N71917 VEE Q2N3904
E_En         N72475 INN D 0 0.5
Q_Q4         N80593 N72383 N71939 Q2N3904
Q_Q2         N72387 INN N71929 Q2N3904
Q_Q8         VCC B OUT Q2N3904
R_RB         N71917 0  {RB}  
Q_Q5         A N72387 N71939 Q2N3904
V_VCM         N72475 0 {VCM}
V_VCC         VCC 0 {VCC}
R_R1         N72383 VCC  {R1}  
Q_Q6D         N71939 N71917 VEE Q2N3904
V_VEE         VEE 0 {VEE}
Q_Q9         N71917 N71917 VEE Q2N3904
R_R2         N72387 VCC  {R2}  
.PARAM  RB=28.6K R1=20K VEE=-15 VCC=15 R2=20K R3=3K R4=2.3K R5=15.7K R6=3K
+  R3_2=0.000001 VCM=0
