* source APPENDIX B-PS.17
V_VEE         VEE 0 {VEE}
C_C3         0 N75509  {C1} IC=0 
D_D2         2 0 D1N4148 
X_U1         N75509 N75813 VCC VEE 1 uA741
R_R1a4         2 1  {R6}  
C_C4         N75813 N75778  {C2} IC=0 
X_U2         N76187 N75813 VCC VEE N75778 uA741
R_R1a5         N75813 1  {R3}  
R_R1a6         1 N76187  {R4}  
R_R1a7         0 N76187  {R5}  
R_R1a         N75509 N75778  {R2}  
V_VCC         VCC 0 {VCC}
D_D1         0 2 D1N4148 
R_R1         2 N75509  {R1}  
.PARAM  C2=16n R1=200K VEE=-15 VCC=15 R2=10K R3=10K R4=10K R5=10K R6=10K C1=16n
