* source APPENDIX B-PS.4
X_TX1         0 2 3 4 5 TX 
R_R4         4 0  {Risolation}  
R_R1         7 6  {R}  
R_R2         2 1  {Rs}  
V_Vsin         1 0  
+SIN 0 169 60 0 0 0
C_C1         4 6  {C}  
D_D1         3 6 D1N4148 
X_Z1         4 7 ZENER_DIODE 
R_R3         7 4  {Rload}  
D_D2         5 6 D1N4148 
.PARAM  Risolation=100E6 Rload=200 R=191 C=520u Rs=0.5
