* source APPENDIX B-PS.2
E_En         CM INN D 0 0.5
V_VCC         VCC 0 15V
V_VEE         0 VEE 15V
V_VCM         CM 0 0Vdc
V_Vd         D 0 DC 0Vdc AC 1Vac 
X_U1         INP INN VCC VEE OUT uA741
E_Ep         INP CM D 0 0.5
