* source APPENDIX B-PS.5
R_R2         N182483 N211736  {RD}  
M_M2         N182483 N182583 N182491 N182491 NMOS0P5  
+ L={L}  
+ W={W}  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
R_R1         N182583 VDD  {RG1}  
R_R3         0 N182583  {RG2}  
V_Vdrain         VDD N211736 0Vdc
V_V1         VDD 0 {VDD}
R_R4         0 N182491  {RS}  
.PARAM  VDD=3.3 RS=1E-15 W=22u RD=4.2K L=0.6u RG1=2E6 RG2=0.88E6
