* source APPENDIX B-PS.2
I_Iout         OUT 0 DC 0Adc AC 1Aac 
R_A1_Rid         N44351 A1_2  {Rid}  
V_A1_VOS         A1_2 0 {VOS}
E_A1_Ed         A1_N43852 0 A1_2 N44351 1E5
C_A1_Cb         0 A1_B  {Cb}  
R_A1_Ro         OUT A1_N44070  {Ro}  
E_A1_Eb         A1_N44070 0 A1_B 0 1
R_A1_Rb         A1_B A1_N43852  {Rb}  
R_R1         N44351 0  {R1}  
R_R2         N44351 OUT  {R2}  
.PARAM  R1=1K R2=100K VOS=1e-3 Rid=2e6 Ro=75 ft=1e6 Cb=1e-12 A0d=1e5 Rb=
+ {A0d/(2*3.142*ft*Cb)}
