* source APPENDIX B-PS.12
R_R         A N136150  {R}  
M_M3         B B 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M3}
C_Cc         N136150 OUT  {Cc}  
M_M2         A IN N135996 N135996 PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M2}
C_CL         0 OUT  {Cload}  
M_M6         OUT A 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M6}
M_M1         B OUT N135996 N135996 PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M1}
V_VCC         VDD 0 {VDD}
V_Vpulse         IN 0 DC 1.65 
+PULSE {1.65+{Vstep}/2} {1.65-{Vstep}/2} 0 1p 1p 0.1u 0.2u
M_M8         N135944 N135944 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M8}
M_M5         N135996 N135944 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M5}
I_Iref         N135944 0 DC {Iref}  
M_M4         A B 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M4}
M_M7         OUT N135944 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M7}
.PARAM  VDD=3.3 Cload=1p M1=8 M2=8 Iref=90u M3=2 M4=2 M5=16 VCM=1.65 M6=4 M7=16
+  M8=16 Vstep=10m R=3.2K Gain=-10 Cc=0.6p
