* source HW1
V_VDD         N00700 0 3.3Vdc
R_RS         0 N00725  150k TC=0,0 
M_M1         N00411 N01229 N00662 N00662 PMOS0P5  
+ L=0.5u  
+ W=12u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=1
M_M2         VO N01180 N00662 N00662 PMOS0P5  
+ L=0.5u  
+ W=12u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=1
M_M6         N00725 N00725 N00700 N00700 PMOS0P5  
+ L=0.5u  
+ W=0.75u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=1
M_M5         N00662 N00725 N00700 N00700 PMOS0P5  
+ L=0.5u  
+ W=2.5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=1
M_M3         N00411 N00411 0 0 NMOS0P5  
+ L=0.5u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
M_M4         VO N00411 0 0 NMOS0P5  
+ L=0.5u  
+ W=5u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=1
C_CL         0 VO  1p  TC=0,0 
V_Vin+         N01229 0 DC 1.65Vdc AC 0.5749020786Vac 
V_Vin-         N01180 0 DC 1.65Vdc AC -0.5749020786Vac 
